US05728888
Preparation of 2,2',4,4'-tetrahydroxybenzophenone
82.2 g (0.30 mol) of 2,2'-dihydroxy-4,4'-dimethoxybenzophenone were reacted with 600 g of AlCl3 (4.50 mol) and 180 g (2.47 mol) of DMF (dimethylformamide) as in Example 2, and the product was worked up as described.

reactant | 2,2'-dihydroxy-4,4'-dimethoxybenzophenone | 0.30 mol, 82.2 g | OC1=C(C(=O)C2=C(C=C(C=C2)OC)O)C=CC(=C1)OC | C15H14O5
reactant | AlCl3 | 4.50 mol, 600 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | DMF | 2.47 mol, 180 g | CN(C=O)C | C3H7NO
product | 2,2',4,4'-tetrahydroxybenzophenone | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
